US09376436B2
A solution of 4-chlorobutanoyl chloride (4.12 mL, 36.84 mmol) in DCM (50 mL) was added over 15 mins to an ice-cooled solution of 3-bromo-4-fluoro-aniline (7 g, 36.84 mmol) and triethylamine (5.12 mL, 36.84 mmol) in DCM (100 mL) under N2. After addition was complete the cooling bath was removed and the solution stirred at ambient temp for 4 h. The reaction solution was washed with water (2×150 ml) dried (MgSO4) and concentrated to a white solid, which was dried at RT under vacuum overnight to give N-(3-bromo-4-fluoro-phenyl)-4-chloro-butanamide (D57) (9.04 g);

reactant | 4-chlorobutanoyl chloride | 36.84 mmol, 4.12 mL | ClCCCC(=O)Cl | C4H6Cl2O
reactant | 3-bromo-4-fluoro-aniline | 36.84 mmol, 7 g | BrC=1C=C(N)C=CC1F | C6H5BrFN
reactant | triethylamine | 36.84 mmol, 5.12 mL | C(C)N(CC)CC | C6H15N
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | N-(3-bromo-4-fluoro-phenyl)-4-chloro-butanamide | 9.04 g | BrC=1C=C(C=CC1F)NC(CCCCl)=O | C10H10BrClFNO
